US05258513
12.2 g of 2-chloro-4-cyclopropyl-6-cyclopropylamino-1,3,5-triazine (0.057 mole), 5.97 g of thiomorpholine (0.057 mole) and 8 g of potassium carbonate (0.057 mole) are mixed in 100 ml of isopropyl alcohol and the mixture is heated at 75°-80° C. for 2 hours. It is cooled, the salts are filtered off and the filtrate is evaporated to dryness. The residue is taken up in 200 ml of dichloromethane, the solution is washed with water and dried over sodium sulfate and the solvent is evaporated. The product obtained is crystallized from a 1:2 (v/v) mixture of ethyl acetate-hexane to give 13.18 g of 2-cyclopropyl-4-cyclopropylamino-6-thiomorpholino-1,3,5-triazine. Yield: 83.5%. M.P.: 133°-134° C.

reactant | 2-chloro-4-cyclopropyl-6-cyclopropylamino-1,3,5-triazine | 0.057 mole, 12.2 g | ClC1=NC(=NC(=N1)C1CC1)NC1CC1 | C9H11ClN4
reactant | thiomorpholine | 0.057 mole, 5.97 g | N1CCSCC1 | C4H9NS
reactant | potassium carbonate | 0.057 mole, 8 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 2-cyclopropyl-4-cyclopropylamino-6-thiomorpholino-1,3,5-triazine | 13.18 g, Yield: 83.5% | C1(CC1)C1=NC(=NC(=N1)NC1CC1)N1CCSCC1 | C13H19N5S
